US06727249B2
(1R*,2R*,5S*,6R*)-2-{[3,5-Bis(trifluoromethyl)phenyl]methoxy}-6-cyano-1-phenyl-8-(prop-2-enyl)-8-azabicyclo[3.2.1]octane
Sodium hydride (60% in oil, 100 mg, 2.5 mmol) was added to a stirred mixture of 1R*,2R*,5S*,6R*)-6-cyano-1-phenyl-8-(prop-2-enyl)-8-azabicyclo[3.2.1]octan-2-ol (Description 24; 400 mg, 1.49 mmol), 3,5-bis(trifluoromethyl)benzyl bromide (1 ml, 5.45 mmol) and 18-crown-6 (87 mg, 0.33 mmol) in THF (5 ml) at room temperature. The reaction mixture was stirred for 22 hours, quenched with water and extracted into dichloromethane. The combined organic extracts were washed with water, dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (iso-hexane:ethyl acetate) to give the title compound (530 mg, 72%).

reactant | Sodium hydride | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | 6-cyano-1-phenyl-8-(prop-2-enyl)-8-azabicyclo[3.2.1]octan-2-ol | 1.49 mmol, 400 mg | C(#N)C1C2CCC(C(C1)(N2CC=C)C2=CC=CC=C2)O | C17H20N2O
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 5.45 mmol, 1 ml | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | 18-crown-6 | 0.33 mmol, 87 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (1R*,2R*,5S*,6R*)-2-{[3,5-Bis(trifluoromethyl)phenyl]methoxy}-6-cyano-1-phenyl-8-(prop-2-enyl)-8-azabicyclo[3.2.1]octane | 530 mg, 72% | FC(C=1C=C(C=C(C1)C(F)(F)F)CO[C@H]1[C@@]2(C[C@H]([C@H](CC1)N2CC=C)C#N)C2=CC=CC=C2)(F)F | C26H24F6N2O
